### PR TITLE
[Merged by Bors] - chore(Order/CompleteLattice/Finset): use `to_dual` and some golfs

### PR DESCRIPTION
**Pull request by SnirBroshi**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Order/CompleteLattice/Finset.lean [hunk 1]
```diff
@@ -91,12 +86,9 @@ theorem iInter_eq_iInter_finset' (s : ι' → Set α) :
...
   iInf_eq_iInf_finset' s
 
-theorem iUnion_finset_eq_set (s : Set ι) :
-    ⋃ s' : Finset s, Subtype.val '' (s' : Set s) = s := by
+theorem iUnion_finset_eq_set (s : Set ι) : ⋃ s' : Finset s, Subtype.val '' (s' : Set s) = s := by
   ext x
-  simp only [Set.mem_iUnion, Set.mem_image, SetLike.mem_coe, Subtype.exists,
-    exists_and_right, exists_eq_right]
-  exact ⟨fun ⟨_, hx, _⟩ ↦ hx, fun hx ↦ ⟨{⟨x, hx⟩}, hx, by simp⟩⟩
+  simpa using ⟨fun ⟨_, hx, _⟩ ↦ hx, fun hx ↦ ⟨{⟨x, hx⟩}, hx, by simp⟩⟩
```
Comment (YaelDillies) [inline Mathlib/Order/CompleteLattice/Finset.lean]: This proof is worse than the previous. At some point soon, `simpa [lemmas] using term` will become a macro for `have := term; simp [lemmas] at this; simp [lemmas, this]` (instead of the current `have := term; simp [lemmas] at this; exact this`), then your proof will break

**Review by YaelDillies — APPROVED** [review]
Thanks!

maintainer delegate

File: Mathlib/Order/CompleteLattice/Finset.lean (hunk 1 above)
Comment (SnirBroshi) [reply Mathlib/Order/CompleteLattice/Finset.lean]: Are those flipped? because the `exact` version doesn't work here but the `simp [this]` version does.
Also it knows the expected type of the term somehow so neither of those can be the actual implementation, strange.

I'm not sure I understand the reasoning but it does seem very fragile since this is relying on the type after simplification, so it feels like it should trigger the flexible linter in some sense. Reverted, thanks!

Comment (JovanGerb) [reply Mathlib/Order/CompleteLattice/Finset.lean]: @YaelDillies, I don't think this is true. It is a core feature of `simpa` that it unifies the given term with the goal.

Though I agree that this example is stretching the abilities of `simpa` a bit too far.

**Comment by JovanGerb** [comment]
Thanks!

maintainer merge

**Review by j-loreaux — COMMENTED** [review]
Thanks!

bors merge
